US07820815B2
c. 1-[(4-Methylquinazolin-2-yl)methyl]-3-methyl-7-(2-butin-1-yl)-8-(3-(R)-phthalimidopiperidin-1-yl)-xanthine
10.00 kg (22.06 mol) of 1-[(4-methylquinazolin-2-yl)methyl]-3-methyl-7-(2-butin-1-yl)-8-bromoxanthine, 12.59 kg (33.09 mol) of 3-(phthalimido)piperidine D-tartrate and 17.5 litres of N-methyl-2-pyrrolidone are initially charged in the reactor. The reactor contents are heated to 140° C. After the temperature has been attained, 11.41 kg (88.24 mol) of diisopropylethylamine are metered in within 20 minutes. The feed vessel is flushed with 2.5 litres of N-methyl-2-pyrrolidone and the reaction mixture is subsequently stirred at 140° C. for 2 hours. After the reaction has ended, the reaction mixture is cooled to 60° C. and diluted with 80 litres of methanol. The resulting suspension is stirred at 50° C. for 30 minutes, then cooled to 23° C. and stirred for a further 30 minutes. Subsequently, the product is centrifuged off and washed 3 times with 20 litres each time of methanol. Drying is effected at 45° C. in a drying cabinet under inertization.

reactant | 1-[(4-methylquinazolin-2-yl)methyl]-3-methyl-7-(2-butin-1-yl)-8-bromoxanthine | 22.06 mol, 10.00 kg | CC1=NC(=NC2=CC=CC=C12)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)Br)C | C20H17BrN6O2
reactant | 3-(phthalimido)piperidine D-tartrate | 33.09 mol, 12.59 kg | C(=O)(O)[C@@H](O)[C@H](O)C(=O)O.C1(C=2C(C(N1C1CNCCC1)=O)=CC=CC2)=O
reactant | diisopropylethylamine | 88.24 mol, 11.41 kg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N-methyl-2-pyrrolidone | 17.5 litres | CN1C(CCC1)=O | C5H9NO
product | 1-[(4-Methylquinazolin-2-yl)methyl]-3-methyl-7-(2-butin-1-yl)-8-(3-(R)-phthalimidopiperidin-1-yl)-xanthine | CC1=NC(=NC2=CC=CC=C12)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1C[C@@H](CCC1)N1C(C=2C(C1=O)=CC=CC2)=O)C | C33H30N8O4
